US05403934
3-(4-Chlorophenyl)-1,2,6-trimethylpyridin-4-one
3-(4-Chlorophenyl)-2,6-dimethylpyran-4-one (2.27 g) was heated at 150° with a solution of methylamine in ethanol (35 ml; 33% w/w) in an autoclave for 12 hr. The mixture was concentrated in vacuo, triturated with ether and filtered, to afford the title compound (1.2 g), m.p. 221°-222°, NMR δH (d6 -DMSO) 7.42 (2H, d, J 5 Hz), 7.1 (2H, d, J 5 Hz), 6.1 (1H, s), 3.5 (3H, s), 2.32 (3H, s), 2.15 (3H, s).

reactant | 3-(4-Chlorophenyl)-2,6-dimethylpyran-4-one | 2.27 g | ClC1=CC=C(C=C1)C1=C(OC(=CC1=O)C)C | C13H11ClO2
reactant | methylamine | CN | CH5N
solvent | ethanol | 35 ml | C(C)O | C2H6O
product | 3-(4-Chlorophenyl)-1,2,6-trimethylpyridin-4-one | 1.2 g | ClC1=CC=C(C=C1)C1=C(N(C(=CC1=O)C)C)C | C14H14ClNO
